US03962438
2-(2,3-Dihydroxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione-7-oxide
Reaction of 2-(2,3-dihydroxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl] phenothiazine-1,3(2H)-dione and m-chloroperbenozic acid according to the procedure of Example 6 gave the title compound, m.p. 224°-225° (chloroform-methanol).

reactant | 2-(2,3-dihydroxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl] phenothiazine-1,3(2H)-dione | OC(CN1C(N2C3=C(C=CC=C3SC=3C=CC(=CC23)C(F)(F)F)C1=O)=O)CO | C18H13F3N2O4S
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-(2,3-Dihydroxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione-7-oxide | OC(CN1C(N2C3=C(C=CC=C3S(C=3C=CC(=CC23)C(F)(F)F)=O)C1=O)=O)CO | C18H13F3N2O5S
